US07781478B2
Preparation of 2-[4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (Compound 666)
Following the procedure in example 1B step B, 2-[4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)phenyl]-1-ethyl-6-hydroxy-1H-indole-3-carbonitrile, K2CO3, 2-iodopropane and methyl ethyl ketone are heated at reflux to give, after flash chromatography (EtOAc/CH2Cl2, 0-2%), 61% of 2-[4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)phenyl]-1-ethyl-6-isopropoxy-1H-indole-3-carbonitrile as an off-white solid.

reactant | 2-[4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)phenyl]-1-ethyl-6-hydroxy-1H-indole-3-carbonitrile | O=S1(N(CCC1)C1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)CC)=O | C20H19N3O3S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-iodopropane | IC(C)C | C3H7I
reactant | 2-[4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)phenyl]-1-ethyl-6-isopropoxy-1H-indole-3-carbonitrile | O=S1(N(CCC1)C1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC(C)C)CC)=O | C23H25N3O3S
solvent | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 2-[4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | O=S1(N(CCC1)C1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC)=O | C21H21N3O3S
